US07067517B2
Glutaric anhydride (1.14 g, 10.0 mmol) was added to a solution of 5-amino-2-methoxypyridine (1.24 g, 10.0 mmol) in dichloromethane (25 mL). After standing for 1 hour at room temperature, thionyl chloride (5.95 g, 50.0 mmol) was added, followed by heating to reflux for 0.5 hour. The solvent and excess thionyl chloride were evaporated in vacuo, yielding 4-(6-methoxy-pyridin-3-ylcarbamoyl)-butyryl chloride, which was used without further purification.

reactant | Glutaric anhydride | 10.0 mmol, 1.14 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | 5-amino-2-methoxypyridine | 10.0 mmol, 1.24 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | thionyl chloride | 50.0 mmol, 5.95 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 4-(6-methoxy-pyridin-3-ylcarbamoyl)-butyryl chloride | COC1=CC=C(C=N1)NC(=O)CCCC(=O)Cl | C11H13ClN2O3
